US07253286B2
N-(4-(6-(4-Methylsulfanylphenylamino)pyrimidin-4-yloxy)phenyl)-N′-phenylurea
N-(6-(4-Aminophenoxy)pyrimidin-4-yl)-4-methylsulfanylphenylamine (194 mg, 0.600 mmol) and phenyl isocyanate (78.6 mg, 0.660 mmol) were stirred in dimethylformamide (2 ml) at room temperature for 18 hours. The reaction solution was distributed between ethyl acetate and water, the organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was suspended in ethyl acetate, the suspension was diluted with hexane, and the crystals were filtered out, washed with hexane and then blow-dried to obtain the title compound (250 mg, 0.564 mmol, 94%) as colorless crystals.

reactant | N-(6-(4-Aminophenoxy)pyrimidin-4-yl)-4-methylsulfanylphenylamine | 0.600 mmol, 194 mg | NC1=CC=C(OC2=CC(=NC=N2)NC2=CC=C(C=C2)SC)C=C1 | C17H16N4OS
reactant | phenyl isocyanate | 0.660 mmol, 78.6 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | N-(4-(6-(4-Methylsulfanylphenylamino)pyrimidin-4-yloxy)phenyl)-N′-phenylurea | 0.564 mmol, 250 mg, 94% | CSC1=CC=C(C=C1)NC1=CC(=NC=N1)OC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C24H21N5O2S
